US06548495B2
3-[7-(3-Hydroxymethyl-pyrrol-1-yl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile
The title compound was prepared from 3-(3-cyano-phenyl)-N-[5-(3-hydroxymethyl-pyrrol-1-yl)-2-nitro-phenyl]-3-oxo-propionamide (Example M11) by reductive cyclization with Fe/HOAc in THF/H2O at 60° C. according to the general procedure J (method d). Obtained as a brown solid (18 mg).

reactant | 3-(3-cyano-phenyl)-N-[5-(3-hydroxymethyl-pyrrol-1-yl)-2-nitro-phenyl]-3-oxo-propionamide | C(#N)C=1C=C(C=CC1)C(CC(=O)NC1=C(C=CC(=C1)N1C=C(C=C1)CO)[N+](=O)[O-])=O | C21H16N4O5
solvent | THF H2O | C1CCOC1.O
catalyst | Fe HOAc | [Fe].CC(=O)O
product | 3-[7-(3-Hydroxymethyl-pyrrol-1-yl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile | OCC1=CN(C=C1)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C21H16N4O2
